US04922021
A mixture of 3.0 g (12.5 mmoles) of 1-[N-(2,6-dimethylphenyl)-acetamido]-2-chloro-propane and 9.4 ml of a 18 w/v % ethanolic dimethylamine solution is heated at 60° C. for 3 hours in a bomb. The mixture is cooled, admixed with 50 ml of benzene and 10 ml of water, and the organic phase is separated. The aqueous phase is extracted twice with 10 ml of benzene, each. The benzene solutions are combined, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. 2.8 g (90.3%) of 1-[N-(2,6-dimethylphenyl)-acetamido]-2dimethylamino-propane are obtained as a thick, light yellow oil; b.p.: 140°-141° C./120 Pa. The hydrochloride monohydrate of the base melts at 170°-172° C.

reactant | 1-[N-(2,6-dimethylphenyl)-acetamido]-2-chloro-propane | 12.5 mmoles, 3.0 g | CC1=C(C(=CC=C1)C)N(C(C)=O)CC(C)Cl | C13H18ClNO
reactant | dimethylamine | CNC | C2H7N
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | water | 10 ml | O | H2O
product | 1-[N-(2,6-dimethylphenyl)-acetamido]-2dimethylamino-propane | 2.8 g, 90.3% | CC1=C(C(=CC=C1)C)N(C(C)=O)CC(C)N(C)C | C15H24N2O
